### PR TITLE
[Merged by Bors] - refactor: rename `IsLocalRingHom` to `IsLocalHom`

### PR DESCRIPTION
**Pull request by jjdishere**
Replace the `IsLocalRingHom` with `IsLocalHom`. Add instances for `IsLocalHom` in `CommRingCat` to resolve the problem caused by #6045. For a more detailed explanation of the problem, see https://github.com/leanprover-community/mathlib4/pull/17403#issuecomment-2418322525. Further golf some proof related to `IsLocalHom` instance search.

---

- [x] depends on #6045 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by faenuccio** [comment]
Thanks, LGTM.

**Comment by faenuccio** [comment]
maintainer merge

**Comment by urkud** [comment]
Please add deprecated aliases.

File: Mathlib/Algebra/Category/Ring/Constructions.lean [hunk 1]
```diff
@@ -244,15 +244,15 @@ instance equalizer_ι_isLocalRingHom (F : WalkingParallelPair ⥤ CommRingCat.{u
         equalizerForkIsLimit (F.map WalkingParallelPairHom.left)
           (F.map WalkingParallelPairHom.right)⟩
       WalkingParallelPair.zero]
-  change IsLocalRingHom ((lim.map _ ≫ _ ≫ (equalizerFork _ _).ι) ≫ _)
+  change IsLocalHom ((lim.map _ ≫ _ ≫ (equalizerFork _ _).ι) ≫ _)
   infer_instance
```
Comment (jjdishere) [inline Mathlib/Algebra/Category/Ring/Constructions.lean:249]:
```suggestion

@[deprecated "2024-10-10"]
alias equalizer_ι_isLocalRingHom := equalizer_ι_isLocalHom

```

File: Mathlib/Algebra/Category/Ring/Instances.lean [hunk 2]
```diff
@@ -36,16 +36,16 @@ instance Localization.epi' {R : CommRingCat} (M : Submonoid R) :
   rcases R with ⟨α, str⟩
   exact IsLocalization.epi M _
 
-instance CommRingCat.isLocalRingHom_comp {R S T : CommRingCat} (f : R ⟶ S) (g : S ⟶ T)
-    [IsLocalRingHom g] [IsLocalRingHom f] : IsLocalRingHom (f ≫ g) :=
-  RingHom.isLocalRingHom_comp _ _
+instance CommRingCat.isLocalHom_comp {R S T : CommRingCat} (f : R ⟶ S) (g : S ⟶ T)
+    [IsLocalHom g] [IsLocalHom f] : IsLocalHom (f ≫ g) :=
+  RingHom.isLocalHom_comp _ _
```
Comment (jjdishere) [inline Mathlib/Algebra/Category/Ring/Instances.lean:42]:
```suggestion

@[deprecated "2024-10-10"]
alias CommRingCat.isLocalRingHom_comp := CommRingCat.isLocalHom_comp

```

File: Mathlib/Algebra/Category/Ring/Instances.lean [hunk 3]
```diff
@@ -36,16 +36,16 @@ instance Localization.epi' {R : CommRingCat} (M : Submonoid R) :
...
 
-theorem isLocalRingHom_of_iso {R S : CommRingCat} (f : R ≅ S) : IsLocalRingHom f.hom :=
+theorem isLocalHom_of_iso {R S : CommRingCat} (f : R ≅ S) : IsLocalHom f.hom :=
   { map_nonunit := fun a ha => by
       convert f.inv.isUnit_map ha
       exact (RingHom.congr_fun f.hom_inv_id _).symm }
```
Comment (jjdishere) [inline Mathlib/Algebra/Category/Ring/Instances.lean:47]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_of_iso := isLocalHom_of_iso

```

File: Mathlib/Algebra/Category/Ring/Instances.lean [hunk 4]
```diff
@@ -36,16 +36,16 @@ instance Localization.epi' {R : CommRingCat} (M : Submonoid R) :
...
 
 -- see Note [lower instance priority]
-instance (priority := 100) isLocalRingHom_of_isIso {R S : CommRingCat} (f : R ⟶ S) [IsIso f] :
-    IsLocalRingHom f :=
-  isLocalRingHom_of_iso (asIso f)
+instance (priority := 100) isLocalHom_of_isIso {R S : CommRingCat} (f : R ⟶ S) [IsIso f] :
+    IsLocalHom f :=
+  isLocalHom_of_iso (asIso f)
```
Comment (jjdishere) [inline Mathlib/Algebra/Category/Ring/Instances.lean:51]:
```suggestion
  isLocalHom_of_iso (asIso f)

@[deprecated "2024-10-10"]
alias isLocalRingHom_of_isIso := isLocalHom_of_isIso
```

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 5]
```diff
@@ -218,38 +218,41 @@ variable [Monoid R] [Monoid S] [Monoid T] [FunLike F R S]
...
-theorem isUnit_map_iff (f : F) [IsLocalRingHom f] (a : R) : IsUnit (f a) ↔ IsUnit a :=
-  ⟨IsLocalRingHom.map_nonunit a, IsUnit.map f⟩
+theorem isUnit_map_iff (f : F) [IsLocalHom f] (a : R) : IsUnit (f a) ↔ IsUnit a :=
+  ⟨IsLocalHom.map_nonunit a, IsUnit.map f⟩
 
-theorem isLocalRingHom_of_leftInverse [FunLike G S R] [MonoidHomClass G S R]
-    {f : F} (g : G) (hfg : Function.LeftInverse g f) : IsLocalRingHom f where
+theorem isLocalHom_of_leftInverse [FunLike G S R] [MonoidHomClass G S R]
+    {f : F} (g : G) (hfg : Function.LeftInverse g f) : IsLocalHom f where
   map_nonunit a ha := by rwa [isUnit_map_of_leftInverse g hfg] at ha
```
Comment (jjdishere) [inline Mathlib/Algebra/Group/Units/Hom.lean:244]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_of_leftInverse := isLocalHom_of_leftInverse

```

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 6]
```diff
@@ -218,38 +218,41 @@ variable [Monoid R] [Monoid S] [Monoid T] [FunLike F R S]
...
 
-instance MonoidHom.isLocalRingHom_comp (g : S →* T) (f : R →* S) [IsLocalRingHom g]
-    [IsLocalRingHom f] : IsLocalRingHom (g.comp f) where
-  map_nonunit a := IsLocalRingHom.map_nonunit a ∘ IsLocalRingHom.map_nonunit (f := g) (f a)
+instance MonoidHom.isLocalHom_comp (g : S →* T) (f : R →* S) [IsLocalHom g]
+    [IsLocalHom f] : IsLocalHom (g.comp f) where
+  map_nonunit a := IsLocalHom.map_nonunit a ∘ IsLocalHom.map_nonunit (f := g) (f a)
```
Comment (jjdishere) [inline Mathlib/Algebra/Group/Units/Hom.lean:248]:
```suggestion

@[deprecated "2024-10-10"]
alias MonoidHom.isLocalRingHom_comp := MonoidHom.isLocalHom_comp

```

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 7]
```diff
@@ -218,38 +218,41 @@ variable [Monoid R] [Monoid S] [Monoid T] [FunLike F R S]
...
 
 -- see note [lower instance priority]
-instance (priority := 100) isLocalRingHom_toMonoidHom (f : F) [IsLocalRingHom f] :
-    IsLocalRingHom (f : R →* S) :=
-  ⟨IsLocalRingHom.map_nonunit (f := f)⟩
+instance (priority := 100) isLocalHom_toMonoidHom (f : F) [IsLocalHom f] :
+    IsLocalHom (f : R →* S) :=
+  ⟨IsLocalHom.map_nonunit (f := f)⟩
```
Comment (jjdishere) [inline Mathlib/Algebra/Group/Units/Hom.lean:253]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_toMonoidHom := isLocalHom_toMonoidHom

```

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 8]
```diff
@@ -218,38 +218,41 @@ variable [Monoid R] [Monoid S] [Monoid T] [FunLike F R S]
...
 
-theorem MonoidHom.isLocalRingHom_of_comp (f : R →* S) (g : S →* T) [IsLocalRingHom (g.comp f)] :
-    IsLocalRingHom f :=
+theorem MonoidHom.isLocalHom_of_comp (f : R →* S) (g : S →* T) [IsLocalHom (g.comp f)] :
+    IsLocalHom f :=
   ⟨fun _ ha => (isUnit_map_iff (g.comp f) _).mp (ha.map g)⟩
```
Comment (jjdishere) [inline Mathlib/Algebra/Group/Units/Hom.lean:257]:
```suggestion

@[deprecated "2024-10-10"]
alias MonoidHom.isLocalRingHom_of_comp := MonoidHom.isLocalHom_of_comp

```

File: Mathlib/Algebra/GroupWithZero/Units/Lemmas.lean [hunk 9]
```diff
@@ -34,8 +34,8 @@ lemma isLocalRingHom_of_exists_map_ne_one [FunLike F G₀ M] [MonoidHomClass F G
     · exact ⟨⟨a, a⁻¹, mul_inv_cancel₀ h, inv_mul_cancel₀ h⟩, rfl⟩
```
Comment (jjdishere) [inline Mathlib/Algebra/GroupWithZero/Units/Lemmas.lean:35]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_of_exists_map_ne_one := isLocalHom_of_exists_map_ne_one

```

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 10]
```diff
@@ -624,17 +624,17 @@ def closedPoint : PrimeSpectrum R :=
...
 variable {R}
 
-theorem isLocalRingHom_iff_comap_closedPoint {S : Type v} [CommSemiring S] [LocalRing S]
-    (f : R →+* S) : IsLocalRingHom f ↔ PrimeSpectrum.comap f (closedPoint S) = closedPoint R := by
+theorem isLocalHom_iff_comap_closedPoint {S : Type v} [CommSemiring S] [LocalRing S]
+    (f : R →+* S) : IsLocalHom f ↔ PrimeSpectrum.comap f (closedPoint S) = closedPoint R := by
   -- Porting note: inline `this` does **not** work
   have := (local_hom_TFAE f).out 0 4
   rw [this, PrimeSpectrum.ext_iff]
   rfl
```
Comment (jjdishere) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:633]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_iff_comap_closedPoint := isLocalHom_iff_comap_closedPoint

```

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean [hunk 11]
```diff
@@ -89,18 +89,18 @@ noncomputable def Hom.stalkMap {X Y : LocallyRingedSpace.{u}} (f : Hom X Y) (x :
     Y.presheaf.stalk (f.1.1 x) ⟶ X.presheaf.stalk x :=
   f.val.stalkMap x
 
-instance isLocalRingHomStalkMap {X Y : LocallyRingedSpace.{u}} (f : X ⟶ Y) (x : X) :
-    IsLocalRingHom (f.stalkMap x) :=
+instance isLocalHomStalkMap {X Y : LocallyRingedSpace.{u}} (f : X ⟶ Y) (x : X) :
+    IsLocalHom (f.stalkMap x) :=
   f.2 x
```
Comment (jjdishere) [inline Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:95]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHomStalkMap := isLocalHomStalkMap

```

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean [hunk 12]
```diff
@@ -89,18 +89,18 @@ noncomputable def Hom.stalkMap {X Y : LocallyRingedSpace.{u}} (f : Hom X Y) (x :
...
 
-instance isLocalRingHomValStalkMap {X Y : LocallyRingedSpace.{u}} (f : X ⟶ Y) (x : X) :
-    IsLocalRingHom (f.val.stalkMap x) :=
+instance isLocalHomValStalkMap {X Y : LocallyRingedSpace.{u}} (f : X ⟶ Y) (x : X) :
+    IsLocalHom (f.val.stalkMap x) :=
   f.2 x
```
Comment (jjdishere) [inline Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:99]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHomValStalkMap := isLocalHomValStalkMap

```

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 13]
```diff
@@ -164,8 +164,8 @@ theorem algebraMap_eq_zero_iff (x : R) : algebraMap R (ExteriorAlgebra R M) x =
 theorem algebraMap_eq_one_iff (x : R) : algebraMap R (ExteriorAlgebra R M) x = 1 ↔ x = 1 :=
   map_eq_one_iff (algebraMap _ _) (algebraMap_leftInverse _).injective
 
-instance isLocalRingHom_algebraMap : IsLocalRingHom (algebraMap R (ExteriorAlgebra R M)) :=
-  isLocalRingHom_of_leftInverse _ (algebraMap_leftInverse M)
+instance isLocalHom_algebraMap : IsLocalHom (algebraMap R (ExteriorAlgebra R M)) :=
+  isLocalHom_of_leftInverse _ (algebraMap_leftInverse M)
```
Comment (jjdishere) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:169]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_algebraMap := isLocalHom_algebraMap

```

File: Mathlib/RingTheory/LocalRing/RingHom/Basic.lean [hunk 14]
```diff
@@ -21,25 +21,25 @@ section
 
 variable [Semiring R] [Semiring S] [Semiring T]
 
-instance isLocalRingHom_id (R : Type*) [Semiring R] : IsLocalRingHom (RingHom.id R) where
+instance isLocalHom_id (R : Type*) [Semiring R] : IsLocalHom (RingHom.id R) where
   map_nonunit _ := id
```
Comment (jjdishere) [inline Mathlib/RingTheory/LocalRing/RingHom/Basic.lean:26]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_id := isLocalHom_id

```

File: Mathlib/RingTheory/LocalRing/RingHom/Basic.lean [hunk 15]
```diff
@@ -21,25 +21,25 @@ section
...
 
 -- see note [lower instance priority]
-instance (priority := 100)  isLocalRingHom_toRingHom {F : Type*} [FunLike F R S]
-   [RingHomClass F R S] (f : F) [IsLocalRingHom f] : IsLocalRingHom (f : R →+* S) :=
-  ⟨IsLocalRingHom.map_nonunit (f := f)⟩
+instance (priority := 100)  isLocalHom_toRingHom {F : Type*} [FunLike F R S]
+   [RingHomClass F R S] (f : F) [IsLocalHom f] : IsLocalHom (f : R →+* S) :=
+  ⟨IsLocalHom.map_nonunit (f := f)⟩
```
Comment (jjdishere) [inline Mathlib/RingTheory/LocalRing/RingHom/Basic.lean:31]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_toRingHom := isLocalHom_toRingHom

```

File: Mathlib/RingTheory/LocalRing/RingHom/Basic.lean [hunk 16]
```diff
@@ -21,25 +21,25 @@ section
...
 
-instance RingHom.isLocalRingHom_comp (g : S →+* T) (f : R →+* S) [IsLocalRingHom g]
-    [IsLocalRingHom f] : IsLocalRingHom (g.comp f) where
-  map_nonunit a := IsLocalRingHom.map_nonunit a ∘ IsLocalRingHom.map_nonunit (f := g) (f a)
+instance RingHom.isLocalHom_comp (g : S →+* T) (f : R →+* S) [IsLocalHom g]
+    [IsLocalHom f] : IsLocalHom (g.comp f) where
+  map_nonunit a := IsLocalHom.map_nonunit a ∘ IsLocalHom.map_nonunit (f := g) (f a)
```
Comment (jjdishere) [inline Mathlib/RingTheory/LocalRing/RingHom/Basic.lean:35]:
```suggestion

@[deprecated "2024-10-10"]
alias RingHom.isLocalRingHom_comp := RingHom.isLocalHom_comp

```

File: Mathlib/RingTheory/LocalRing/RingHom/Basic.lean [hunk 17]
```diff
@@ -21,25 +21,25 @@ section
...
 
-theorem isLocalRingHom_of_comp (f : R →+* S) (g : S →+* T) [IsLocalRingHom (g.comp f)] :
-    IsLocalRingHom f :=
+theorem isLocalHom_of_comp (f : R →+* S) (g : S →+* T) [IsLocalHom (g.comp f)] :
+    IsLocalHom f :=
   ⟨fun _ ha => (isUnit_map_iff (g.comp f) _).mp (g.isUnit_map ha)⟩
```
Comment (jjdishere) [inline Mathlib/RingTheory/LocalRing/RingHom/Basic.lean:39]:
```suggestion

@[deprecated "2024-10-10"]
alias isLocalRingHom_of_comp := isLocalHom_of_comp

```

File: Mathlib/RingTheory/PowerSeries/Inverse.lean [hunk 18]
```diff
@@ -267,10 +267,10 @@ end Field
 
 section LocalRing
 
-variable {S : Type*} [CommRing R] [CommRing S] (f : R →+* S) [IsLocalRingHom f]
+variable {S : Type*} [CommRing R] [CommRing S] (f : R →+* S) [IsLocalHom f]
 
-instance map.isLocalRingHom : IsLocalRingHom (map f) :=
-  MvPowerSeries.map.isLocalRingHom f
+instance map.isLocalHom : IsLocalHom (map f) :=
+  MvPowerSeries.map.isLocalHom f
```
Comment (jjdishere) [inline Mathlib/RingTheory/PowerSeries/Inverse.lean:274]:
```suggestion

@[deprecated "2024-10-10"]
alias map.isLocalRingHom := map.isLocalHom

```

**Review by jjdishere — COMMENTED** [review]
Add all deprecated alias.

**Comment by jjdishere** [comment]
According to (Zulip)[https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Alias.20of.20Prop.20type.20instances/near/476166848], currently, there is a bug when creating aliases for instances. As a result, I deleted all the deprecated alias for instances.

**Comment by erdOne** [comment]
Can you keep `IsLocalRingHom` as an alias that only accepts `R ->+* S` (and not arbitrary funlike)? I strongly suspect this will solve the instance troubles.

**Comment by jjdishere** [comment]
> Can you keep `IsLocalRingHom` as an alias that only accepts `R ->+* S` (and not arbitrary funlike)? I strongly suspect this will solve the instance troubles.

@erdOne I agree with you that a class that only accepts `R ->+* S` will solve the problem and I am very happy to fix it myself. I just want to make sure I understand your proposed solution correctly. Following your suggestion, `IsLocalRingHom` and `IsLocalHom` would be different classes with an instance linking them. 
```
instance isLocalHom_IsLocalRingHom (f : R ->+* S) [IsLocalRingHom f] : IsLocalHom f := sorry
```
Should I 
1. use as much `IsLocalRingHom` as possible in the conclusions and as much `IsLocalHom` as possible in the conditions, or
2. establish a separating point in the file tree, such that instances defined after a certain point (e.g., the file Algebra.Category.Ring.Instances) only use `IsLocalRingHom`.

Maybe we should continue on zulip if more discussion is needed.

**Comment by erdOne** [comment]
I mean `abbrev IsLocalRingHom (f : R ->+*S) : Prop := IsLocalHom f` which should work well with the typeclass system.

**Comment by jjdishere** [comment]
> I mean `abbrev IsLocalRingHom (f : R ->+*S) : Prop := IsLocalHom f` which should work well with the typeclass system.

Thank you! I'll try it.

**Comment by jjdishere** [comment]
@erdOne I've tried to implemented your suggestion.

The main obstacle is that Lean cannot infer `IsLocalHom f` from `IsLocalRingHom f` when `f` is a complex construction in category theory. The following example (from current file `Algebra.Category.Ring.Instances` in this PR) reflects part of the problem. 
```
import Mathlib.Algebra.Category.Ring.Basic
import Mathlib.RingTheory.Localization.Away.Basic
import Mathlib.RingTheory.LocalRing.RingHom.Basic

instance CommRingCat.isLocalHom_ofIsLocalRingHom {R S : CommRingCat} (f : R ⟶ S)
    [IsLocalRingHom f] : IsLocalHom f :=
  inferInstance

@[instance]
theorem CommRingCat.isLocalRingHom_comp {R S T : CommRingCat} (f : R ⟶ S) (g : S ⟶ T)
    [IsLocalHom g] [IsLocalHom f] : IsLocalRingHom (f ≫ g) :=
  RingHom.isLocalRingHom_comp _ _

variable {R S T : CommRingCat} (f : R ⟶ S) (g : S ⟶ T)
    [IsLocalHom g] [IsLocalHom f]
#synth IsLocalRingHom (f ≫ g) -- succeed
#synth IsLocalHom (f ≫ g) -- succeed
```
Removing `CommRingCat.isLocalHom_ofIsLocalRingHom` will cause `#synth IsLocalHom (f ≫ g)` to fail. Changing `CommRingCat.isLocalRingHom_comp` to `CommRingCat.isLocalHom_comp` will cause `#synth IsLocalRingHom (f ≫ g) to fail`.

Similar problems happen in many places, e.g. 
1. in the file `Mathlib.Geometry.RingedSpace.LocallyRingedSpace`, Lean cannot infer `IsLocalHom (f.val.stalkMap x)` from `IsLocalRingHom (f.val.stalkMap x)`.
2. in the file `AlgebraGeometry.Spec`, Lean cannot infer `IsLocalHom (stalkIso (↑S) p).inv`, but `IsLocalRingHom (stalkIso (↑S) p).inv` can be inferred. I've also checked that the following example works in this file
```
variable {R S : CommRingCat} (f : R ≅ S)
#synth IsLocalHom f.inv --succeed
```
But `IsLocalHom (stalkIso (↑S) p).inv` still fails.

**Comment by jjdishere** [comment]
Shall we open a discussion for this on Zulip?

**Comment by jjdishere** [comment]
Update: With the help of @chrisflav , I'm trying to reimplement the suggestion again, change back all `IsLocalHom` to `IsLocalRingHom` in the folder `AlgebraicGeometry` `Geometry` and add this one instance
```
instance CommRingCat.isLocalHom_ofIsLocalRingHom {R S : CommRingCat} (f : R ⟶ S)
    [IsLocalRingHom f] : IsLocalHom f :=
  inferInstance
```

**Comment by jjdishere** [comment]
Update: @erdOne This PR is ready for review again.

**Comment by jjdishere** [comment]
All of the following solutions will create unexpected troubles in the proof inside the definition `AlgebraicGeometry.Spec.locallyRingedSpaceMap` in the file `AlgebraicGeometry.Spec`.

1. define `abbrev IsLocalRingHom (f : R ->+*S)` for ring `R` and `S` and add instance `CommRingCat.isLocalHom_ofIsLocalRingHom`
2. define `abbrev IsLocalRingHom (f : R ⟶ S)` for morphisms in the `CommRingCat` and add instance `CommRingCat.isLocalHom_ofIsLocalRingHom`
3. define a new class `IsLocalRingHom (f : R ->+*S)` for ring `R` and `S` and add suitable instances
4. define a new class `IsLocalRingHom (f : R ⟶ S)` for morphisms in the `CommRingCat` and add suitable instances

The new troubles in `AlgebraicGeometry.Spec.locallyRingedSpaceMap` are similar to the previous ones caused in #6045 . Thanks to @chrisflav , we figured out what the problem is. Here is a mwe of the problem:
```
def Bar (R : Type) : Type := R

class Foo {R : Type} (f : R → R) : Prop where
  foo {a : R} (h : f a = f a) : True

instance (R : Type) : Coe (Bar R → R) (R → R) where
  coe f := f

def baz (R : Type) : Bar R → R := id

instance boo (R : Type) : Foo (baz R) where
  foo _ := trivial

example (R : Type) (a : Bar R) (ha : baz R a = baz R a) : True :=
  /- it fails after commenting the next line out -/
  haveI : Foo (baz R) := inferInstance
  Foo.foo ha
```
The type of the implicit argument `R` in the last line's `Foo.foo` is inferred as `R` by Lean. However, in `instance boo` the type of the implicit argument `R` in `Foo.foo` is `Bar R`.

Similar things happen for `IsLocalHom`. The implicit arguments `R` and `S` in `IsLocalHom` will be deduced using `CommRingCat.instFunLike'` instead of `CommRingCat.instFunLike` when one starts with a morphism of the form `f : CommRingCat.of R ⟶ S`. This causes the troubles we encounter in #6045 and here.

So we chose to solve the problem by adding three directly related instances to the file `Algebra.Category.Ring.Instances`. Now all manually assigned instances in #6045 are removed successfully. I also golfed some pre-existing manually-assigned-instances prooflines.

**Comment by erdOne** [comment]
Thanks a lot for all of this!
Could you update the PR commit message?

**Comment by erdOne** [comment]
Does the remaining `IsLocalHom f` where `f` is an arrow in `CommRingCat` not cause any problems?

**Comment by jjdishere** [comment]
> Thanks a lot for all of this! Could you update the PR commit message?

Fixed.

**Comment by jjdishere** [comment]
> Does the remaining `IsLocalHom f` where `f` is an arrow in `CommRingCat` not cause any problems? 

No new problems were discovered after I implemented the current solution.

File: Mathlib/Algebra/Category/Ring/Instances.lean [hunk 19]
```diff
@@ -36,16 +37,51 @@ instance Localization.epi' {R : CommRingCat} (M : Submonoid R) :
...
 
-instance CommRingCat.isLocalRingHom_comp {R S T : CommRingCat} (f : R ⟶ S) (g : S ⟶ T)
-    [IsLocalRingHom g] [IsLocalRingHom f] : IsLocalRingHom (f ≫ g) :=
-  RingHom.isLocalRingHom_comp _ _
+-- These three instances solves the issue where the `FunLike` instances provided by
+-- `CommRingCat.instFunLike'`, `CommRingCat.instFunLike''`, and `CommRingCat.instFunLike'''`
+-- are not syntactically equal to `CommRingCat.instFunLike` when applied to
+-- objects of the form `CommRingCat.of R`.
+-- To prevent infinite loops, the priority of these three instances must be set lower
+-- than that of other instances.
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/Ring/Instances.lean:45]:
```suggestion
-- These three instances solve the issue where the `FunLike` instances provided by
-- `CommRingCat.instFunLike'`, `CommRingCat.instFunLike''`, and `CommRingCat.instFunLike'''`
-- are not syntactically equal to `CommRingCat.instFunLike` when applied to
-- objects of the form `CommRingCat.of R`.
-- To prevent infinite loops, the priority of these three instances must be set lower
-- than that of other instances.
```
Also can you use block comment syntax `/- ... -/` instead?

**Comment by erdOne** [comment]
Okay great! 
maintainer merge

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 20]
```diff
@@ -632,6 +632,9 @@ namespace Scheme
 
 variable {X Y : Scheme.{u}} (f : X ⟶ Y)
 
+instance (x) : IsLocalHom (f.stalkMap x) :=
+  f.1.2 x
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Scheme.lean:636]:
```suggestion
  f.prop x
```

**Review by chrisflav — APPROVED** [review]
Two small comments, thanks for doing this!

File: Mathlib/AlgebraicGeometry/ResidueField.lean [hunk 21]
```diff
@@ -77,16 +77,7 @@ lemma evaluation_ne_zero_iff_mem_basicOpen (x : X) (hx : x ∈ U) (f : Γ(X, U))
...
-
-
--- TODO: This instance is found before #6045.
--- We need this strange instance for `residueFieldMap`, the type of `F` must be fixed
--- like this. The instance `IsLocalRingHom (f.stalkMap x)` already exists, but does not work for
--- `residueFieldMap`.
-instance (x): IsLocalRingHom (F := Y.presheaf.stalk (f.base x) →+* X.presheaf.stalk x)
-    (f.stalkMap x) :=
-  f.1.2 x
+variable {X Y : Scheme.{u}} (f : X ⟶ Y) (x : X)
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/ResidueField.lean:80]:
```suggestion
variable {X Y : Scheme.{u}} (f : X ⟶ Y)
```

File: Mathlib/Algebra/Category/Ring/Instances.lean (hunk 19 above)
Comment (jjdishere) [reply Mathlib/Algebra/Category/Ring/Instances.lean]: Fixed. Thanks.

**Comment by jjdishere** [comment]
Strange enough, I didn't find any merge conflict even if [bot-assistant](https://github.com/leanprover-community-bot-assistant) said so. Nevertheless, I've just merged the master.

**Comment by jjdishere** [comment]
Update: All conversations resolved no more merge conflicts now.

**Comment by eric-wieser** [comment]
!bench

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
